US04764586
3-Octoxymethyl-3-methyloxetane (OMMO)
Into a 5 liter, three-neck flask, fitted with a stirrer, reflux condenser, and nitrogen inlet tube, were placed 245 g (2.4 mole) of 3-hydroxymethyl-3-methyloxetane and 3000 ml of p-dioxane. To this solution 47 g (2 mole) of solid sodium metal was added, and the pot temperature was raised to reflux. Heat was maintained until all of the sodium had dissolved. 400 g (2 mole) of 1-bromooctane was added, and the reflux was resumed for 3 days. The mixture was cooled to room temperature, and the solid sodium bromide was filtered off using celite. The solvent was removed by evaporation and the product was distilled at 80° C. and 0.3-mm pressure. Redistillation from calcium hydride gave 231 g of polymerizable monomer, representing a 58 percent yield.

reactant | 3-hydroxymethyl-3-methyloxetane | 2.4 mole, 245 g | OCC1(COC1)C | C5H10O2
reactant | sodium | [Na] | Na
reactant | 1-bromooctane | 2 mole, 400 g | BrCCCCCCCC | C8H17Br
solvent | p-dioxane | 3000 ml | O1CCOCC1 | C4H8O2
product | 3-Octoxymethyl-3-methyloxetane | 231 g, 58 percent yield | C(CCCCCCC)OCC1(COC1)C | C13H26O2
